US08278331B2
The above mixture of 2-methanesulfonyl-4-(1-methyl-1H-pyrazol-4-yl)-pyrimidine and 2-methanesulfinyl-4-(1-methyl-1H-pyrazol-4-yl)-pyrimidine (1 g, 4.2 mmol), 4-amino-3-fluoro-phenol (1.1 g, 8.6 mmol) and K2CO3 (1.2 g, 8.6 mmol) in DMF (10 mL) was heated at 100° C. for 12 h. The reaction was partitioned between H2O and EtOAc (3×50 mL). The combined organics were dried (Na2SO4), concentrated in vacuo and chromatographed to provide 2-fluoro-5-(4-(1-methyl-1H-pyrazol-4-yl)pyrimidin-2-yloxy)benzenamine (402 mg). 1H NMR (400 MHz, DMSO-d6): δ 8.44 (d, J=5.2 Hz, 1H), 8.39 (s, 1H), 8.07 (s, 1H), 7.41 (d, J=5.2 Hz, 1H), 6.98 (t, J=9.6 Hz, 1H), 6.53 (dd, J=5.6, 2.0 Hz, 1H), 6.28 (d, J=8.4 Hz, 1H), 5.25 (br s, 2H), 3.88 (s, 3H). MS (ESI) m/z: 286.2 (M+H+).

reactant | 2-methanesulfonyl-4-(1-methyl-1H-pyrazol-4-yl)-pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)C=1C=NN(C1)C | C9H10N4O2S
reactant | 2-methanesulfinyl-4-(1-methyl-1H-pyrazol-4-yl)-pyrimidine | 4.2 mmol, 1 g | CS(=O)C1=NC=CC(=N1)C=1C=NN(C1)C | C9H10N4OS
reactant | 4-amino-3-fluoro-phenol | 8.6 mmol, 1.1 g | NC1=C(C=C(C=C1)O)F | C6H6FNO
reactant | K2CO3 | 8.6 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-5-(4-(1-methyl-1H-pyrazol-4-yl)pyrimidin-2-yloxy)benzenamine | 402 mg | FC1=C(C=C(C=C1)OC1=NC=CC(=N1)C=1C=NN(C1)C)N | C14H12FN5O
